US06498169B1
Synthesis of 4-[N-Benzyl-N-[[5-(3,4,5-trimethoxypheny)pyridin-3-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Tetrahydrochloride
4-Benzylamino-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (134 mg) and 3-chloromethyl-5-(3,4,5-trimethoxyphenyl)pyridine (114 mg) were condensed by the same manner as described in Example 9. Yellow oil of a free base was converted to a tetrahydrochloride which gave the title compound as yellow powder.

reactant | 4-Benzylamino-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 134 mg | C(C1=CC=CC=C1)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C27H33N3O3
reactant | 3-chloromethyl-5-(3,4,5-trimethoxyphenyl)pyridine | 114 mg | ClCC=1C=NC=C(C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-Benzyl-N-[[5-(3,4,5-trimethoxypheny)pyridin-3-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Tetrahydrochloride | Cl.Cl.Cl.Cl.C(C1=CC=CC=C1)N(CC=1C=NC=C(C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C42H48N4O6.4ClH/c1-47-37-20-32(21-38(48-2)41(37)51-5)34-18-31(24-43-25-34)28-46(27-29-10-8-7-9-11-29)35-13-16-45(17-14-35)26-30-12-15-44-36(19-30)33-22-39(49-3)42(52-6)40(23-33)50-4;;;;/h7-12,15,18-25,35H,13-14,16-17,26-28H2,1-6H3;4*1H
